US07790882B2
1-(1-(Trimethylsilyl)oct-1-yn-3-yl)piperidin-4-one
A 10 ml schlenk tube was charged with copper (I) bromide (3.6 mg, 0.025 mmol), (R,Rax)-[4-(2-diphenylphosphanyl-naphthalen-1-yl)-phthalazin-1-yl]-(1-phenylethyl)amine (15.7 mg, 0.028 mmol) and 4 Å molecular sieves (powdered, 0.25 g) and then purged with argon for 5 min. Dichloromethane (1 ml) was added and the resulting suspension was stirred for 60 min. To the reaction mixture were added triethylamine (56 mg, 0.55 mmol), 4-piperidone monohydrochloride monohydrate (powder, 154 mg, 1.0 mmol), (trimethylsilyl)acetylene (98 mg, 1.00 mmol) and n-hexanal (50 mg, 0.50 mmol). The flask was rinsed with an additional 1 ml of dichloromethane and then sealed. The reaction mixture was stirred vigorously at 23° C. for 22 hrs. The reaction mixture was directly purified by flash chromatography on silica gel (hexane/EtOAc=9:1) to give 102 mg of the title compound as a colorless oil. (Yield: 73%)

reactant | triethylamine | 0.55 mmol, 56 mg | C(C)N(CC)CC | C6H15N
reactant | 4-piperidone monohydrochloride monohydrate | 1.0 mmol, 154 mg | O.Cl.N1CCC(CC1)=O
reactant | (trimethylsilyl)acetylene | 1.00 mmol, 98 mg | C[Si](C)(C)C#C | C5H10Si
reactant | n-hexanal | 0.50 mmol, 50 mg | C(CCCCC)=O | C6H12O
catalyst | copper (I) bromide | 0.025 mmol, 3.6 mg | [Cu]Br
product | 1-(1-(Trimethylsilyl)oct-1-yn-3-yl)piperidin-4-one | 102 mg, Yield: 73% | C[Si](C#CC(CCCCC)N1CCC(CC1)=O)(C)C | C16H29NOSi
